US04879288
(e) Phenyl 2-(phenylthio)phenylcarbamate.
2-Amino diphenylsulfide (0.4 mole) was dissolved in toluene (500 ml) and cooled to 5° C. Phenyl chloroformate (0.24 mole) in toluene (50 ml) was added slowly to the stirred solution over 1 hour. When addition was complete a simultaneous addition of phenyl chloroformate (0.24 mole) in toluene (50 ml) and an aqueous solution of sodium hydroxide (0.3 mole) and sodium carbonate (0.35 mole) (200 ml) was started.

reactant | 2-Amino diphenylsulfide | 0.4 mole | C1=CC=C(C=C1)SC2=CC=CC=C2N | C12H11NS
reactant | Phenyl chloroformate | 0.24 mole | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | phenyl chloroformate | 0.24 mole | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydroxide | 0.3 mole | [OH-].[Na+]
reactant | sodium carbonate | 0.35 mole, 200 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Phenyl 2-(phenylthio)phenylcarbamate | C1(=CC=CC=C1)SC1=C(C=CC=C1)NC(OC1=CC=CC=C1)=O | C19H15NO2S
